US08372866B2
b) 2-(6-hydroxypyridin-3-yl)-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one hydrochloride
To a suspension of 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one (0.6 g) in ethanol (30 ml) was added HCl 6N (2 ml). The mixture was stirred under reflux for 30 hours, cooled and the hydrochloride was filtered off. Yield: 40%.

reactant | 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one | 0.6 g | COC1=CC=C(C=N1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=N | C24H21N3O4
reactant | HCl | 6N, 2 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(6-hydroxypyridin-3-yl)-3-benzyloxy-6-[(1-iminoethyl)amino]-4H-1-benzopyran-4-one hydrochloride | Yield: 40% | Cl.OC1=CC=C(C=N1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=N | InChI=1S/C23H19N3O4.ClH/c1-14(24)26-17-8-9-19-18(11-17)21(28)23(29-13-15-5-3-2-4-6-15)22(30-19)16-7-10-20(27)25-12-16;/h2-12H,13H2,1H3,(H2,24,26)(H,25,27);1H
